Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
ibuprofen / Benadryl
 
Attending: ___
 
Chief Complaint:
Lower extremity edema
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with ___ IDDM c/b peripheral neuropathy with h/o multiple 
falls at home, CKD (baseline Cr 1.2-1.4), hypothyroidism, OA, 
and mild dementia who was referred to the ED from her PCP's 
office on ___ for concern of worsening of her baseline chronic 
BLE edema and pain as well as FTT. Patient's daughter says she 
has had two weeks of malodorous urine, urinary frequency, 
nocturia up to ___ times per night up from her baseline of 
1x/night. Consequently, patient decided to stop taking her 
Lasix, and wasn't able to use compression stockings due to 
severe bilateral lower extremity edema.  Last dose of Lasix was 
two days prior to admission. Of note, the patient was seen by 
her PCP in clinic on ___. Given leg pain (thought to be related 
to her ongoing edema), and failure to thrive, the patient was 
directly admitted to ___. However, as there were no beds at 
the time, the patient was sent to the ___ ED for further 
evaluation.  

In the ED, initial vital signs were 97.4 87 ___ 95% RA. 
Repeat vital signs several hours later showed a BP of 164/82. 
Labs notable for BUN/Cr 37/1.2, neg trop, proBNP 296, UA 
positive for small leuks and few bacteria, CXR with mild 
pulmonary vascular congestion, negative RLE DVT on R ___.  She 
was given IV CTX 1g x 1 and transferred to the floor.
   
 WBC 7.9 Hbg 11.1 Hct 34.5 Plt ___  
 --------------<341  
 4.0 26 1.2  
 
 Troponin was <0.01, proBNP 296  
 
Urinalysis was obtained and significant for small leukocytes, 
few bacteria.  A chest xray showed mild pulmonary vascular 
congestion. Ultrasound was obtained on the right lower extremity 
and negative for evidence of DVT.  She was given 1g of IV CTX 
and admitted to the medicine floor.  
 
Upon arrival to the floor, she is without complaints. She notes 
chronic leg swelling and pain, though currently without 
significant pain.  
 
Past Medical History:
ABNORMAL MAMMOGRAM 
ALLERGY 
COLD THYROID NODULE  
HYPERCHOLESTEROLEMIA 
HYPERPARATHYROIDISM 
INSULIN DEPENDENT DIABETES MELLITUS 
OSTEOARTHRITIS 
PSYCHOSOCIAL 
SUBCLINICAL HYPERTHYROIDISM 
H/O HYPERTENSION 

 
Social History:
___
Family History:
Reports no family history of any cancer, heart disease, stroke, 
diabetes mellitus. Patient's parents passed away at young age, 
unknown cause. 
 
Physical Exam:
ON ADMISSION:
==============
VITALS 98.0 169/75 81 20 97% on room air  
 GENERAL - pleasant, well-appearing, in no apparent distress  
 HEENT - normocephalic, atraumatic, no conjunctival pallor or 
scleral icterus, PERRLA, EOMI, OP clear  
 NECK - supple, no LAD  
 CARDIAC - regular rhythm, normal S1/S2, no murmur  
 PULMONARY - crackles in lower ___ bilaterally  
 ABDOMEN - normal bowel sounds, soft, non-tender, non-distended, 
no organomegaly  
 EXTREMITIES - warm, well-perfused. There is 2+ edema from the 
feet to the midthighs, worse on right compared to left. Mild 
stasis changes.  
 NEUROLOGIC - A&Ox3, CN II-XII grossly normal, no focal deficits 
 

ON DISCHARGE:
==============
VITALS: 97.8ax, 148/65, 80, 18, 95% on RA
Weight: 80.6 kg > 77.8 kg > 77.2 kg > 77.3 > 77.2 (___)
I/Os: 740/750 | ___
GEN: Pleasant, elderly-appearing woman in no apparent distress  
HEENT: Neck supple, JVD flat. OP clear, dry MM.
CARDIAC: RRR, normal S1/S2, II/VI SEM @ LUSB.
PULM: Good air entry, bibasilar crackles.
ABD: Soft, obese, nontender, BS+. No rebound or guarding. No 
CVAT.
EXT: WWP, trace to 1+ BLE edema (RLE>>LLE), feet edema 
significantly reduced from admission. Atrophic hyperpigmentation 
c/w venous stasis changes, faintly erythematous bilaterally. 
Dystrophic tonails.  Callous/healed over scab on lateral aspect 
of the R calf.  Exquisitely TTP bilaterally.
NEURO: A&Ox3, CN II-XII grossly normal, no focal deficits. 
Speech/thought tangential. Decreased peripheral sensation in the 
bilateral lower extremities.  
 
 
Pertinent Results:
ADMISSION LABS:
===============
___ 08:25PM BLOOD WBC-7.9 RBC-3.98 Hgb-11.1* Hct-34.5 
MCV-87 MCH-27.9 MCHC-32.2 RDW-13.6 RDWSD-42.9 Plt ___
___ 08:25PM BLOOD Neuts-59.6 ___ Monos-11.8 Eos-2.3 
Baso-0.5 Im ___ AbsNeut-4.70 AbsLymp-2.00 AbsMono-0.93* 
AbsEos-0.18 AbsBaso-0.04
___ 08:25PM BLOOD ___ PTT-30.1 ___
___ 08:25PM BLOOD Glucose-341* UreaN-37* Creat-1.2* Na-140 
K-4.0 Cl-103 HCO3-26 AnGap-15
___ 08:25PM BLOOD ALT-16 AST-24 AlkPhos-109* TotBili-0.2
___ 08:25PM BLOOD cTropnT-<0.01 proBNP-296
___ 08:25PM BLOOD Albumin-3.7
___ 08:25PM BLOOD TSH-3.3

IMAGING /  STUDIES:
====================
- TTE (___):
The left atrium is normal in size. No atrial septal defect is 
seen by 2D or color Doppler. The estimated right atrial pressure 
is ___ mmHg. Left ventricular wall thickness, cavity size and 
regional/global systolic function are normal (LVEF >55%). The 
estimated cardiac index is normal (>=2.5L/min/m2). Tissue 
Doppler imaging suggests an increased left ventricular filling 
pressure (PCWP>18mmHg). with normal free wall contractility. The 
diameters of aorta at the sinus, ascending and arch levels are 
normal. The aortic valve leaflets are mildly thickened (?#). 
There is no aortic valve stenosis. No aortic regurgitation is 
seen. The mitral valve leaflets are mildly thickened. There is 
no mitral valve prolapse. Mild (1+) mitral regurgitation is 
seen. The estimated pulmonary artery systolic pressure is 
normal. There is an anterior space which most likely represents 
a prominent fat pad. 
IMPRESSION: Normal left ventricular wall thickness, cavity size 
and regional/global systolic function. Increased PCWP. Right 
ventricle not well visualized. Mild mitral regurgitation.

- Ultrasound, right lower extremity (___):  
IMPRESSION: Limited examination. No evidence of deep venous 
thrombosis in the right lower extremity veins. Moderate to 
marked soft tissue edema the right lower extremity.  

- Chest xray (___):  
IMPRESSION: Mild pulmonary vascular congestion and mild 
bibasilar atelectasis.  

DISCHARGE LABS:
===============
___ 07:06AM BLOOD WBC-7.9 RBC-3.91 Hgb-11.0* Hct-34.7 
MCV-89 MCH-28.1 MCHC-31.7* RDW-13.5 RDWSD-43.9 Plt ___
___ 07:06AM BLOOD Glucose-104* UreaN-35* Creat-1.8* Na-140 
K-5.1 Cl-103 HCO3-25 AnGap-17
___ 07:06AM BLOOD proBNP-216
___ 07:06AM BLOOD Calcium-8.8 Phos-4.4 Mg-2.___ with PMH IDDM c/b peripheral neuropathy with h/o multiple 
falls at home, CKD (baseline Cr 1.2-1.4), hypothyroidism, OA, 
and mild dementia who was referred to the ED from her PCP's 
office on ___ for concern of worsening of her baseline chronic 
BLE edema and pain as well as failure to thrive. 

# UTI: Patient had symptomatic bacteruria with positive UA in ED 
and symptoms of urinary frequency, nocturia, and cloudy, 
malodorous urine x 2 weeks. Patient found on this admission to 
have pansensitive E.coli. Therefore patient treated with a 3-day 
course of Bactrim DS, which was switched to ciprofloxacin for 
the last dose in the setting of ___. 

# Lower extremity edema: On admission, patient presented with 
worsening of her baseline chronic BLE edema in the setting of 
medication non-compliance with Lasix and compression stockings. 
Etiology likely for her BLE edema likely due to noncompliance as 
well as progression of her diabetic nephropathy. Patient 
followed by Dr. ___ at ___ clinic, though does not 
appear to have e/o PAD, thus chronic edema thought to be due to 
venous status. DVT ruled out with negative R ___. Silent 
ischemic event possible, given crackles and congestion on CXR, 
though proBNP <300 and EKG w/o evidence of acute ischemic 
changes. Repeat TTE on ___ with preserved LVEF > 55%, similar 
to prior TTE in ___. Plan for follow-up with nephrology and PCP 
on discharge. Will need repeat labs on ___ and daily 
weights. Will restart home Lasix if weight up. Will hold Lasix 
if weight is down. If creatinine at baseline can restart Lasix 
despite weight.

# Failure To Thrive: Per PCP, patient is not doing well at home 
with medication compliance appearing to be part of the issue. 
Social work and nutrition consult provided education and 
resources with plan for follow-up with PCP. Discharged to 
rehabilitation facility.

# ___ on CKD: Developed ___ in setting of lasix diuresis and 
bactrim use with Cr 1.9 (___) up from 1.5 on admission, up from 
baseline Cr 1.2-1.3. Lisinopril and furosemide held on ___ and 
last dose of bactrim switched to ciprofloxacin. Creatinine 
peaked at 1.9 but came down to 1.8 with gentle IVF hydration. 
Will need continued close follow up. 

# IDDM: c/b peripheral neuropathy and diabetic nephropathy. Last 
A1c in ___ 8.5. Has been up to 11.5 in the past. Managed by 
___. Had some hypoglycemic episodes in house on home regimen, 
suggesting possible non-compliance with home regimen. Was 
therefore weaned down to 2U QAC from 6UQAC.

# HTN: Continued home lisinopril but held in setting ___ with 
plan to resume after improvement in renal function. 

# Hypothyroidism: TSH wnl. Continued home levothyroxine 125mcg 6 
days per week. 

=====================
TRANSITIONAL ISSUES:
=====================
# MEDICATION CHANGES:
- Furosemide was discontinued on ___ due to ___. This should be 
resumed on ___ if patient weight is greater than 77.2kg or if 
her creatinine is at baseline of 1.2-1.4. 
- Lisinopril was discontinued on ___ due to ___. This should be 
resumed when her creatinine is back at baseline of 1.2-1.4
# FOLLOW-UP:
- Recheck Cr on ___, if 1.2-1.4 can restart Lasix and 
lisinopril
- Recheck A1c with optimization of insulin sliding scale. 
Discharged on 2 units Humalog standing TID plus sliding scale.
- Recommend follow-up with nephrology for proteinuria likely 
secondary to progression of diabetic nephropathy
# CONTACT: ___ (daughter) ___ 
# CODE STATUS: Full Code
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Glargine 7 Units Breakfast
Glargine 7 Units Dinner
Humalog 6 Units Breakfast
Humalog 6 Units Lunch
Humalog 6 Units Dinner
Insulin SC Sliding Scale using novalog Insulin
2. Fluticasone Propionate NASAL 1 SPRY NU BID 
3. Furosemide 20 mg PO EVERY OTHER DAY 
4. Furosemide 40 mg PO EVERY OTHER DAY 
5. Hydrocortisone Oint 2.5% 1 Appl TP BID 
6. Levothyroxine Sodium 125 mcg PO 6X/WEEK (___) 
7. Cetirizine 10 mg PO DAILY 
8. Acetaminophen 1000 mg PO BID:PRN pain 
9. Capsaicin 0.025% 1 Appl TP TID 
10. Docusate Sodium 100 mg PO BID 
11. Lisinopril 40 mg PO DAILY 
12. Mupirocin Ointment 2% 1 Appl TP BID 
13. Omeprazole 20 mg PO DAILY 
14. Pravastatin 40 mg PO QPM 
15. Senna 17.2 mg PO QHS 

 
Discharge Medications:
1. Docusate Sodium 100 mg PO BID 
2. Hydrocortisone Oint 2.5% 1 Appl TP BID 
3. Levothyroxine Sodium 125 mcg PO 6X/WEEK (___) 
4. Omeprazole 20 mg PO DAILY 
5. Pravastatin 40 mg PO QPM 
6. Senna 17.2 mg PO QHS 
7. Mupirocin Ointment 2% 1 Appl TP BID 
8. Aspirin 81 mg PO DAILY 
9. Capsaicin 0.025% 1 Appl TP TID 
10. Cetirizine 10 mg PO DAILY 
11. Fluticasone Propionate NASAL 1 SPRY NU BID 
12. Acetaminophen 1000 mg PO BID:PRN pain 
13. Glargine 8 Units Breakfast
Glargine 8 Units Dinner
Humalog 2 Units Breakfast
Humalog 2 Units Lunch
Humalog 2 Units Dinner
Insulin SC Sliding Scale using HUM Insulin
14. Polyethylene Glycol 17 g PO DAILY:PRN constipation 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
Urinary tract infection
Lower extremity edema
Failure to thrive
Acute Kindey Injury

Secondary Diagnosis:
Chronic kidney disease
Insulin-dependent diabetes
Hypothyroidism
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___,

It was a pleasure to care for you at ___.  You were admitted 
to the hospital for leg swelling.  You were found to have a 
urinary tract infection, so we treated you with antibiotics.  We 
also reduced the swelling in your legs with a medication called 
lasix which you said you have not been taking regularly at home. 
 You developed acute kidney injury while being treated but it 
improved with fluids then stablized.  We collected urine over 24 
hours because we found protein in your urine, which may be due 
to progression of your diabetes, so we have arranged for you to 
be seen by a nephrologist (kidney doctor).  Your symptoms 
improved and you felt better so we felt it was safe for you to 
be discharged.  Physical therapy evaluated you and recommended 
that you go to a rehabilitation center to help make you 
stronger.  

We recommend that you follow-up with your primary care physician 
after you are discharged from the hospital and rehabilitation 
center.

It was a pleasure to take care of you.
-- Your ___ Care Team
 
Followup Instructions:
___